US07241798B2
1-Hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (racemic)
To racemic Intermediate 17, one enantiomer being ((1S,2S,5S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methanol (2.61 g, 13.8 mmol) dissolved in methylene chloride (20 mL) was added triethylamine (2.5 mL, 17.9 mmol). The solution was cooled to 0° C. and di-tert-butyl dicarbonate (1M/THF, 14.5 mL, 14.5 mmol) was added. The reaction was allowed to warm to room temperature and stirred for 16 hours. The solvent was removed at reduced pressure and the residue partitioned between saturated sodium bicarbonate solution and methylene chloride, the organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to an oil. The material was purified by chromatography on silica using a biotage flash 40 system eluted with a gradient of 0 to 35% EtOAc/Hexanes to give the title compound as an oil (1.9 g, 48% yield).

reactant | ((1S,2S,5S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methanol | 13.8 mmol, 2.61 g | C1(=CC=CC=C1)[C@H]1[C@@]2(C[C@@H]2CN1)CO | C12H15NO
reactant | triethylamine | 17.9 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14.5 mmol, 1M, 14.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-Hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 1.9 g, 48% yield | C(C)(C)(C)OC(=O)N1C(C2(CC2C1)CO)C1=CC=CC=C1 | C17H23NO3
